US08669208B2
2,2,7-Trifluoro-6-nitro-4-(prop-2-ynyl)-2Hbenzo[b][1,4]oxazin-3(4H)-one
To 2,2,7-trifluoro-6-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one (6.9 g, 27.8 mmol) and potassium carbonate (4.61 g, 33.4 mmol) in dry N,N-dimethylformamide at RT was dropwise added 3-bromoprop-1-yne (80 wt % in toluene; 4.96 g, 33.4 mmol). The resulting mixture was stirred at RT overnight. The reaction mixture was poured in saturated aqueous NH4Cl solution and extracted with ethyl acetate. The combined extracts were washed with aqueous NaCl solution, dried with Na2SO4, concentrated and chased with toluene to yield 7.06 g of the title compound as a dark brown solid.

reactant | 2,2,7-trifluoro-6-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one | 27.8 mmol, 6.9 g | FC1(C(NC2=C(O1)C=C(C(=C2)[N+](=O)[O-])F)=O)F | C8H3F3N2O4
reactant | potassium carbonate | 33.4 mmol, 4.61 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromoprop-1-yne | 33.4 mmol, 4.96 g | BrCC#C | C3H3Br
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | NH4Cl | [NH4+].[Cl-]
product | 2,2,7-Trifluoro-6-nitro-4-(prop-2-ynyl)-2Hbenzo[b][1,4]oxazin-3(4H)-one | 7.06 g | FC1(C(N(C2=C(O1)C=C(C(=C2)[N+](=O)[O-])F)CC#C)=O)F | C11H5F3N2O4
